US04036965
The mixture of 250 g of m-chlorobenzyl chloride, 16.6 g of potassium thiocyanate and 150 ml of 95% aqueous ethanol is refluxed for 3 hours and evaporated. The residue is taken up in methylene chloride and water, the organic solution separated; washed with water dried and evaporated to yield the m-chlorobenzyl-thiocyanate.

reactant | m-chlorobenzyl chloride | 250 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | potassium thiocyanate | 16.6 g | [S-]C#N.[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | m-chlorobenzyl-thiocyanate | ClC=1C=C(CSC#N)C=CC1 | C8H6ClNS
